US04853384
To a stirred solution of 4.9 g of 4-(4-nitrophenoxy)-4-phenylpiperidine in 50 ml of benzene was added, dropwise, a solution of 0.91 g of methyl isocyanate in 15 ml of benzene. The reaction mixture was stirred at room temperature for two hours. Evaporation of the volatiles afforded a solid which was purified by means of high pressure liquid chromatography (silica gel; elution with 50% ethyl acetate/dichloromethane) to yield 6.05 g of 1-(N-methylamino)carbonyl-4-(4-nitrophenoxy)-4-phenylpiperidine, m.p. 110°-115° C.

reactant | 4-(4-nitrophenoxy)-4-phenylpiperidine | 4.9 g | [N+](=O)([O-])C1=CC=C(OC2(CCNCC2)C2=CC=CC=C2)C=C1 | C17H18N2O3
reactant | methyl isocyanate | 0.91 g | CN=C=O | C2H3NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 1-(N-methylamino)carbonyl-4-(4-nitrophenoxy)-4-phenylpiperidine | 6.05 g | CNC(=O)N1CCC(CC1)(C1=CC=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C19H21N3O4
